US04472411
In 100 ml of benzene were dissolved 10 g of 2-nitratoethy acetoacetate, 7.91 g of 2-nitrobenzaldehyde and 0.7 ml of piperidine. The solution was reacted under azeotropic dehydration for 1.5 hours, and poured into ice water. Dilute hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed, in turn, with 15% aqueous sodium hydrogen sulfite solution, 15% aqueous sodium carbonate solution and saturated aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. Evaporation of the solvent gave a residue, to which 10.68 g of 3-nitratopropyl 3-aminocrotonate was then added. The mixture was heated at 75°-85° C. for 4 hours with stirring, and ice water was poured into this mixture. The mixture was extracted with dichloromethane, and the dichloromethane layer was washed with water and dried over anhydrous sodium sulfate. Evaporation of the solvent gave a residue which was then subjected to column chromatography on silica gel (eluted with dichloromethane) and recrystallized from ether to obtain 12.1 g of 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-nitratoethyl) ester-5-(3-nitratopropyl) ester.

reactant | acetoacetate | 10 g | C(CC(=O)C)(=O)[O-]
reactant | 2-nitrobenzaldehyde | 7.91 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
reactant | 3-aminocrotonate | 10.68 g | N\C(=C/C(=O)[O-])\C
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid | 12.1 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O)C | C15H14N2O6
